US04011277
In a 1-l three-necked and round-bottomed flask 10.5 g of 3,7,11-trimethyldodeca-1-yne-3-ol, 5.0 g of cuprous chloride, 12.0 g of tetramethylethylenediamine and 675 ml of pyridine were placed and the mixture was subjected to oxydative coupling reaction at 50° ~ 55° C for 6 hours under an oxygen atmosphere. After completion of the reaction, there remained no unreacted starting alcohol. The pyridine was distilled off the reaction system and 300 ml of benzene and 200 ml of water were added to the residue and decanted. The organic layer was washed with 3N--H2SO4 and water, and dried. The benzene was distilled off to afford 8.55 g of 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol. A 5.0 g portion of this product was dissolved in 10 ml of n-hexane and 0.25 g of 3 % palladium on active carbon was added thereto. The mixture was subjected to hydrogenation at a temperature of 60° C of under a hydrogen pressure of 3 ~ 5 kg/cm2 to give 4.6 g of the product consisting of the compounds (V) and (VI) in the ratio of 95.0 : 5.0 % respectively.

reactant | 3,7,11-trimethyldodeca-1-yne-3-ol | 10.5 g | CC(C#C)(CCCC(CCCC(C)C)C)O | C15H28O
reactant | tetramethylethylenediamine | 12.0 g | CN(CCN(C)C)C | C6H16N2
solvent | pyridine | 675 ml | N1=CC=CC=C1 | C5H5N
product | 2,6,10,15,19,23-hexamethyltetracosa-11,13-diyne-10,15-diol | 8.55 g | CC(C)CCCC(CCCC(C#CC#CC(CCCC(CCCC(C)C)C)(O)C)(O)C)C | C30H54O2
